US08975400B2
7-((4-(4-chloro-3-(trifluoromethyl)phenoxy)benzyl)oxy)-1-isopropyl-2,3-dihydroim-idazo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E1 using (4-(4-chloro-3-(trifluoromethyl)phenoxy)phenyl)methanol (50 mg, 0.165 mmol), NaH (11.89 mg, 0.496 mmol) in 5 mL and 7-chloro-1-isopropyl-2,3-dihydroimidazo[1,2-c]pyr-imidin-5(1H)-one (52.9 mg, 0.248 mmol) in DMF (5 mL).

reactant | (4-(4-chloro-3-(trifluoromethyl)phenoxy)phenyl)methanol | 0.165 mmol, 50 mg | ClC1=C(C=C(OC2=CC=C(C=C2)CO)C=C1)C(F)(F)F | C14H10ClF3O2
reactant | NaH | 0.496 mmol, 11.89 mg | [H-].[Na+]
reactant | 7-chloro-1-isopropyl-2,3-dihydroimidazo[1,2-c]pyr-imidin-5(1H)-one | 0.248 mmol, 52.9 mg | ClC=1C=C2N(C(N1)=O)CCN2C(C)C | C9H12ClN3O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-((4-(4-chloro-3-(trifluoromethyl)phenoxy)benzyl)oxy)-1-isopropyl-2,3-dihydroim-idazo[1,2-c]pyrimidin-5(1H)-one | ClC1=C(C=C(OC2=CC=C(COC=3C=C4N(C(N3)=O)CCN4C(C)C)C=C2)C=C1)C(F)(F)F | C23H21ClF3N3O3
